US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-cyclopropylmethyl-2-hydroxy-2-methyl-propyl)-amide
The title compound was synthesized in analogy to Example 15, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 100 mg, 0.43 mmol) and (S)-3-amino-4-cyclopropyl-2-methyl-butan-2-ol (87.83 mg, 0.64 mmol) as starting materials, and isolated (20 mg, 13.03%) as off white solid, LC-MS (UV peak area, ESI) 98.68%, 360.8 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.43 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (S)-3-amino-4-cyclopropyl-2-methyl-butan-2-ol | 0.64 mmol, 87.83 mg | N[C@H](C(C)(O)C)CC1CC1 | C8H17NO
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-cyclopropylmethyl-2-hydroxy-2-methyl-propyl)-amide | C1(CC1)C[C@@H](C(C)(C)O)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C20H29N3O3
